US08980911B2
A solution of 3,5-dichloro-4-(methoxycarbonyl)benzoic acid (400 mg, 1.6 mmol) in dimethylformamide and dichloromethane was treated with oxalyl chloride (0.16 ml, 1.9 mmol) drop wise at room temperature followed by stirring at same temperature for 30 minutes. The reaction mixture was concentrated under vacuum. The residue was dissolved in dichloromethane, cooled to 0° C. and methylamine hydrochloride (118 mg, 1.7 mmol) was added followed by the drop wise addition of triethylamine (0.33 ml, 2.4 mmol) at the same temperature. The reaction mixture was allowed to warm to room temperature, stirred for 1 hour and concentrated under vacuum. The residue was treated with ice-cooled aqueous sodium bicarbonate solution (5%). The precipitated solid was filtered, washed with water, and dried to yield methyl 2,6-dichloro-4-(methylcarbamoyl)benzoate (340 mg, 70%) as a pale yellow solid.

reactant | 3,5-dichloro-4-(methoxycarbonyl)benzoic acid | 1.6 mmol, 400 mg | ClC=1C=C(C(=O)O)C=C(C1C(=O)OC)Cl | C9H6Cl2O4
reactant | oxalyl chloride | 1.9 mmol, 0.16 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylamine hydrochloride | 1.7 mmol, 118 mg | Cl.CN
reactant | triethylamine | 2.4 mmol, 0.33 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 2,6-dichloro-4-(methylcarbamoyl)benzoate | 340 mg, 70% | ClC1=C(C(=O)OC)C(=CC(=C1)C(NC)=O)Cl | C10H9Cl2NO3
